US06239131B1
Preparation of 1-(5-methylfuran-2-yl)carbonylmethyl-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(5-Methylfuran-2-yl)carbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (0.89 g) was dissolved in 4N HCl-dioxane (10 ml), the mixture was stirred at 40-50° C. for 20 minutes. The reaction mixture was concentrated under reduced pressure, the residue was neutralized with saturated aqueous sodium bicarbonate, extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, to thereby obtain 0.71 g of title compound (Yield: 100%).

reactant | 1-(5-Methylfuran-2-yl)carbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.89 g | CC1=CC=C(O1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O | C27H35N3O6
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(5-methylfuran-2-yl)carbonylmethyl-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.71 g, Yield: 100% | CC1=CC=C(O1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)N)=O | C22H27N3O4
